US08445510B2
3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-{5-methyl-1-[cis-4-(piperazin-1-yl)cyclohexyl]-1H-pyrazol-4-yl}-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone (12.0 mg, 0.0250 mmol), tert-butyl 1-piperazinecarboxylate (46.47 mg, 0.2495 mmol), sodium triacetoxyborohydride (10.58 mg, 0.04990 mmol) and 1,2-dichloroethane (3 mL, 40 mmol) was heated to 60° C. in a sealed tube for 1 h. The solution was extracted with DCM and sat. NaHCO3, and the organic layer was concentrated in vacuo. The material was dissolved in 1,4-dioxane (35 mL, 450 mmol), 4 M of HCl in 1,4-dioxane (1 mL, 4 mmol) was added, and the solution was allowed to stir at rt for 4 h. The material was concentrated in vacuo, loaded onto silica gel for column chromatography, and eluted with 5-10% (7N NH3 in MeOH)/DCM. The fractions containing the cis product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.59-1.77 (m, 4H), 1.82 (d, J=7.3 Hz, 3H), 2.16-2.36 (m, 8H), 2.57 (br. s., 4H), 2.95 (t, J=4.9 Hz, 4H), 3.66 (br. s., 3H), 4.28-4.38 (m, 1H), 5.12 (q, J=7.1 Hz, 1H), 6.90 (dd, J=9.1, 4.3 Hz, 1H), 7.10 (t, J=8.8 Hz, 1H), 7.36 (d, J=1.3 Hz, 1H), 7.42 (s, 1H), 7.46 (s, 1H), 8.12 (d, J=2.0 Hz, 1H). MS (ES+): m/z=551.27/553.27 (100/50) [MH+]. HPLC: tR=1.15 min (polar—3 min, UPLC-ACQUITY).

reactant | 4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone | 0.0250 mmol, 12.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CCC(CC2)=O | C26H26ClFN4O2
reactant | tert-butyl 1-piperazinecarboxylate | 0.2495 mmol, 46.47 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium triacetoxyborohydride | 0.04990 mmol, 10.58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 40 mmol, 3 mL | ClCCCl | C2H4Cl2
reactant | 1,4-dioxane | 450 mmol, 35 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
product | 3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-{5-methyl-1-[cis-4-(piperazin-1-yl)cyclohexyl]-1H-pyrazol-4-yl}-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@@H](CC2)N2CCNCC2 | C30H36ClFN6O
